US05656656
0.3 g of LiOH.H2O are dissolved in 1.5 ml of water and the solution is diluted with MeOH to a total volume of 10 ml. This solution, pre-cooled to 0°-5° C., is added to a solution of 1 g of methyl 5-BOC-amino-2-hydroxy-2-methoxycarbonyl-pentanoate in 10 ml of MeOH, cooled at 0° C. The mixture is kept for 24 h at 0°-5° C., under mild stirring. A white crystalline precipitate separates, which is filtered, washed with MeOH and dried to obtain 0.86 g of 5-BOC-amino-2-hydroxy-2-carboxy-pentanoic acid lithium salt (m.p.>300° C.)

reactant | LiOH.H2O | 0.3 g | O[Li].O
reactant | methyl 5-BOC-amino-2-hydroxy-2-methoxycarbonyl-pentanoate | 1 g | C(=O)(OC(C)(C)C)CCC(C(C(=O)OC)(C(=O)OC)O)N | C13H23NO7
solvent | water | 1.5 ml | O | H2O
solvent | MeOH | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | 5-BOC-amino-2-hydroxy-2-carboxy-pentanoic acid lithium salt | 0.86 g | [Li+].C(=O)(OC(C)(C)C)CCC(C(C(=O)[O-])(C(=O)O)O)N | InChI=1S/C11H19NO7.Li/c1-10(2,3)19-7(13)5-4-6(12)11(18,8(14)15)9(16)17;/h6,18H,4-5,12H2,1-3H3,(H,14,15)(H,16,17);/q;+1/p-1
